US08470866B2
A solution of (S)-4-methyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-pentanoic acid (95 mg, 0.30 mmol) in methylene chloride (5 mL) and N,N-dimethylformamide (5 drops) at room temperature was treated with a solution of oxalyl chloride (2.0M in methylene chloride, 200 μL, 0.36 mmol) and stirred for 15 min. After this time, the reaction mixture was concentrated in vacuo and then diluted with methylene chloride (5 mL) and added to a flask containing a solution of 2-aminopyrazine (Aldrich, 57 mg, 0.60 mmol), 2,6-lutidine (250 μL) in methylene chloride (2.5 mL) at 0° C. The reaction mixture was then stirred at room temperature for a period of 30 min After this time, the reaction mixture was treated with methanol and then diluted with methylene chloride. The reaction mixture was then transferred to a separatory funnel and washed with a 1N aqueous hydrochloric acid solution. The organic layer was then dried over magnesium sulfate, filtered to remove the drying agent and the filtrate was concentrated with silica gel (2 g). The silica gel with absorbed material was placed in a SIM and purified via Biotage flash column chromatography (40 S silica gel column, 25%-40% ethyl acetate/hexanes) to afford (S)-4-methyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-pentanoic acid pyrazin-2-ylamide (14 mg, 12%): HR-ES(+) m/e calcd for C19H19N4O2F3 [M+H]+ 393.1533, observed 393.1532; 1H NMR (400 MHz, CHLOROFORM-d) δ 9.49 (s, 1H), 9.03 (br. s., 1H), 8.29-8.38 (m, 2H), 8.10 (d, J=7.67 Hz, 1H), 7.84 (d, J=7.88 Hz, 1H), 7.65 (t, J=7.67 Hz, 1H), 5.14 (dd, J=6.93, 8.84 Hz, 1H), 4.69-4.82 (m, 1H), 4.58-4.67 (m, 1H), 1.88-2.15 (m, 2H), 1.62 (td, J=6.87, 13.96 Hz, 1H), 1.01-1.10 (m, 6H).

reactant | (S)-4-methyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-pentanoic acid | 0.30 mmol, 95 mg | CC(C[C@@H](C(=O)O)N1C(C2=CC=CC(=C2C1)C(F)(F)F)=O)C | C15H16F3NO3
reactant | oxalyl chloride | 0.36 mmol, 2.0M, 200 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminopyrazine | 0.60 mmol, 57 mg | NC1=NC=CN=C1 | C4H5N3
reactant | 2,6-lutidine | 250 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | (S)-4-methyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-pentanoic acid pyrazin-2-ylamide | 14 mg, 12% | N1=C(C=NC=C1)NC([C@H](CC(C)C)N1C(C2=CC=CC(=C2C1)C(F)(F)F)=O)=O | C19H19F3N4O2
